US07482366B2
Alternatively, a suspension of 2-(3-bromo-phenyl)-2-methyl-propionic acid methyl ester (755 mg, 2.9 mmol), and potassium acetate (880 mg, 8.9 mmol) was prepared in DMSO (15 mL). Nitrogen was bubbled through the suspension to deoxygenate the mixture. Bis(pinacolato)diboron (980 mg, 3.8 mmol) was added to the suspension, followed by dichloro[1,1′-bis(diphenylphosphino)ferrocene)palladium (II) dichloromethane adduct (88 mg, 0.11 mmol). The mixture rapidly turned brown. The suspension was then immersed in an oil bath held at 80° C. After 20 minutes the nitrogen bubbling was discontinued. After stirring for 16 hours at 80° C., heating was discontinued, and the black reaction mixture was allowed to cool to ambient temperature. The reaction mixture was then diluted with H2O (100 mL) and ether (100 mL). The aqueous layer was extracted with ether (4×20 mL), and the combined organic layers were washed with water (2×20 mL), brine (50 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to afford a brown oil. The oil was azeotroped with toluene to remove any residual H2O. The crude material was purified by flash chromatography eluting with a gradient from 0% to 14% ethyl acetate/hexane to afford 2-methyl-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid methyl ester (790 mg, 88% yield) as a clear bluish oil. 1H-NMR (400 MHz, CDCl3): δ 7.77 (1H, br s), 7.72-7.67 (1H, m), 7.43-7.39 (1H, m), 7.35-7.30 (1H, m), 3.65 (3H, s), 1.60 (6h, s), 1.34 (12H, s).

reactant | 2-(3-bromo-phenyl)-2-methyl-propionic acid methyl ester | 2.9 mmol, 755 mg | COC(C(C)(C)C1=CC(=CC=C1)Br)=O | C11H13BrO2
reactant | potassium acetate | 8.9 mmol, 880 mg | C(C)(=O)[O-].[K+]
reactant | Bis(pinacolato)diboron | 3.8 mmol, 980 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | H2O | 100 mL | O | H2O
solvent | ether | 100 mL | CCOCC | C4H10O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene)palladium (II) dichloromethane adduct | 0.11 mmol, 88 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 2-methyl-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid methyl ester | 790 mg, 88% yield | COC(C(C)(C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C17H25BO4
